US06545147B1
Preparation of 2,6-bis(4,7-dimethyl-1,4,7-triazacyclonon-1-ylmethyl)4-methylphenol (dtmp)
At 0° C., 3.26 g (16 mmol) of 2,6-bischloromethyl4-methylphenol are added in portions to a solution of 5 g (32 mmol) of 1,4-dimethyl-1,4,7-triazacyclononane and 3.21 g (32 mmol) of triethylamine in 150 ml of methanol, and the mixture is stirred for 4 days at room temperature. For work-up, 1.28 g (32 mmol) of sodium hydroxide are added, and the sodium chloride which forms is filtered off. The solvent is removed under reduced pressure and the product is dried for one day under a high vacuum. Yield: 6.1 g (86%). Analysis: 1H-NMR:δ=2.24 (s,3 H, Carom.—CH3); 2.35 (s,12 H, N-CH3); 2.64 (m, 8 H, Carom.—CH2—N—CH2—CH2—N); 2.67 (s, 8 H, H3C—N—CH2—CH2—N—CH3); 2.87 (m, 8 H, Carom.—CH2N—CH2—CH2—N); 3.73 (s, 4 H, Carom.—CH2N); 6.82 (s, 2 H, Carom—H) 13C-NMR: 6=20.4 (Carom.—CH3); 45.4 (N—CH3); 53.0; 55.9; 56.2; (N—CH2—CH2—N); 58.6 (Carom.—CH2—N); 123.0 (Carom.—CH2—N); 127.4 (Carom.—CH3); 130.0 (Carom.—H), 154.7 (Carom.—OH) MS: (electrospray) m/e=447 (M+H⊕, 100%)

reactant | 2,6-bischloromethyl4-methylphenol | 16 mmol, 3.26 g | ClCC1=C(C(=CC(=C1)C)CCl)O | C9H10Cl2O
reactant | 1,4-dimethyl-1,4,7-triazacyclononane | 32 mmol, 5 g | CN1CCN(CCNCC1)C | C8H19N3
reactant | triethylamine | 32 mmol, 3.21 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 32 mmol, 1.28 g | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 2,6-bis(4,7-dimethyl-1,4,7-triazacyclonon-1-ylmethyl)4-methylphenol | CN1CCN(CCN(CC1)C)CC1=C(C(=CC(=C1)C)CN1CCN(CCN(CC1)C)C)O | C25H46N6O
